US06384080B1
To a solution of N-(3,4-dimethoxylbenzyl)-2-[(R)-1-methoxycarbonyl-3-(methylthio)propylamino]-5-nitrobenzamide (175 mg) in anhydrous tetrahydrofuran (3 mL) were added lithium chloride (31 mg), and then sodium borohydride (28 mg) in ethanol (3 mL) at ambient temperature. The mixture was stirred for one day. After evaporation of the solvent, the residue was partitioned between ethyl acetate and 10% citric acid aqueous solution. The separated organic layer was washed with water and brine and dried over magnesium sulfate. The residual solid was recrystallized from ethyl acetate-hexane to give N-(3,4-dimethoxylbenzyl)-2-[(R)-1-hydroxymethyl-3-(methylthio)propylamino]-5-nitrobenzamide (122 mg).

reactant | N-(3,4-dimethoxylbenzyl)-2-[(R)-1-methoxycarbonyl-3-(methylthio)propylamino]-5-nitrobenzamide | 175 mg | O(C)C=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@H](CCSC)C(=O)OC)=O)C=CC1OC | C22H27N3O7S
reactant | lithium chloride | 31 mg | [Cl-].[Li+]
reactant | sodium borohydride | 28 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-(3,4-dimethoxylbenzyl)-2-[(R)-1-hydroxymethyl-3-(methylthio)propylamino]-5-nitrobenzamide | 122 mg | O(C)C=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@H](CCSC)CO)=O)C=CC1OC | C21H27N3O6S
